
*$
* UCC27710
*****************************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UCC27710 
* Date: 06JUL2017
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2.0.s003
* EVM Order Number: 
* EVM User's Guide: 
* Data sheet: Preliminary February 2017
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
* A. Features have been modelled
*	1. Output timing characteristics
*	2. UVLO for High side & Low side driver  
*	3. Peak Source & Sink Current for typical VDD=VHB=15V
*	4. tpdlh & tpdhl Propagation Delay for CLx = 0pF
*	5. HI & LI Input Thresholds 
*
* B. Features haven't been modelled
*	1. Operating Current, Shutdown Current and Temperature dependent characteristics 
*	2. Frequency dependent plots 
*
*****************************************************************************










* source UCC27710_TRANS
.SUBCKT UCC27710 COM HB HI HO HS LI LO VDD  
X_U3 COM HB HS UVLO_DLY VDD VHBHS_UVLO UVLODLY  
X_UDTH2 N18219096 GATE_HD GATE_LD DTIME  
X_U300         SET N18219017 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U298         SET RESET PULSE N18219303 SRLATCHRHP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U299         VHBHS_UVLO N18219271 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U38         N18219017 N18219271 RESET OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U36         N18219066 UVLO_DLY N18219096 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U4 N18219287 UVLO_DLY SET EDGETGR  
X_UDTH1 PULSE GATE_LD GATE_HD DTIME  
X_U1 COM HI N18219287 LOGIC  
X_U2 COM LI N18219066 LOGIC  
X_U3A HS GATE_HD HO HB HDRIVER  
X_U3B COM GATE_LD LO VDD LDRIVER  
.ENDS
 
.SUBCKT LDRIVER GND IN OUT VDD  
E_E2         OUT N06208 VALUE { IF(V(IN, 0) > 0.5, -5, 5) }
R_R4         N06268 GND  0.002  
X_U31         OUT VDD D_D
C_C6         OUT N06214  10p  
M_M3         N06218 N06204 OUT OUT NMOS01_UCC27712           
R_R1         N06404 N06204  245  
M_M4         N06268 N06214 OUT OUT PMOS01_UCC27712           
X_U32         GND OUT D_D
R_R2         N06208 N06214  148  
C_C1         N06204 N06218  5p  
C_C4         GND OUT  10p  
C_C2         N06268 N06214  5p  
E_E1         N06404 OUT VALUE { IF(V(IN, 0) > 0.5, 5, -5) }
C_C5         OUT VDD  10p  
C_C3         OUT N06204  10p  
R_R3         VDD N06218  0.002  
.ENDS
 
.SUBCKT HDRIVER GND IN OUT VDD  
M_M4         N05104 N16789871 OUT OUT PMOS01_UCC27712           
C_C1         N16789866 N16789873  5p  
X_U31         OUT VDD D_D
C_C5         VDD OUT  10pF  
C_C3         OUT N16789866  10p  
X_U32         GND OUT D_D
E_E2         OUT N16789868 VALUE { IF(V(IN, 0) > 0.5, -5, 5) }
E_E1         N16790231 OUT VALUE { IF(V(IN, 0) > 0.5, 5, -5) }
C_C6         OUT N16789871  10p  
R_R1         N16790231 N16789866  245  
R_R3         VDD N16789873  0.002  
M_M3         N16789873 N16789866 OUT OUT NMOS01_UCC27712           
R_R4         N05104 GND  0.002  
C_C4         OUT GND  10pF  
R_R2         N16789868 N16789871  148  
C_C2         N05104 N16789871  5p  
.ENDS
 
.SUBCKT LOGIC COM IN OUT  
X_U5         IN THRISE HYS TH_OUT COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U31         N235709 TH_OUT D_D
X_U9         N235727 N235701 OUT OR2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_Rin         IN COM  400k  
X_U32         N235701 N235727 D_D
V_V1         THRISE COM 2.0
R_R1         N235709 TH_OUT  57.72 TC=0,0 
R_R2         N235727 N235701  57.72k TC=0,0 
V_V2         HYS COM 0.8
X_U30         N235709 N235701 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_C2         N235727 0  1p  TC=0,0 
C_C1         N235709 0  1n  TC=0,0 
.ENDS
 
.SUBCKT EDGETGR IN1 IN2 OUT1  
X_U298         N15515922 QOUT2 QOUT1 N15515395 SRLATCHRHP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
X_U310         N15517029 N15516954 N15517129 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U304         N15516755 QOUT1 QOUT2 N15516605 SRLATCHRHP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
X_U305         IN2 N15516655 N15516651 MONOPOS_PS PARAMS: PW=40n
X_U299         N15515651 N15515803 N15515922 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U306         N15516655 N15516723 N15516755 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U307         IN2 N15516747 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U300         IN1 N15515876 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U308         N15516747 N15516723 N15516751 MONOPOS_PS PARAMS: PW=40n
X_U302         QOUT1 IN1 N15517029 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_ABM1         OUT1 0 VALUE { IF(V(IN1) > 0.5, V(N15517129), 0)    }
X_U301         N15515876 N15515803 N15515890 MONOPOS_PS PARAMS: PW=40n
X_U309         QOUT2 IN2 N15516954 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U297         IN1 N15515651 N15515641 MONOPOS_PS PARAMS: PW=40n
.ENDS
 
.SUBCKT DTIME IN1 IN2 OUT1  
X_U1         IN1 N15514405 DELAY PARAMS:  RINP=1K DELAY=86.5n
X_U2         N15514405 N15514143 OUT1 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_ABMII1         0 N15514247 VALUE { IF(V(IN2) < 0.5, 6.7m, 0)    }
C_C1         N15514247 0  1n  
X_UDTH2_S1    IN2 0 N15514247 0 DTIME_UDTH2_S1 
X_U3         N15514247 N15514347 N15514143 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
V_V1         N15514347 0 1
.ENDS
 
.SUBCKT UVLODLY COM HB HS UVLO_DLY VDD VHBHS_UVLO  
X_U2         HB_INT HB_TH VHBHS_UVLO COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U4         VDD_UVLO N15525382 D_D
R_R1         N15525382 N15518582  26.2k TC=0,0 
E_ABM5         HB_TH 0 VALUE { IF ( V(VHBHS_UVLO) < 0.5, 8.3, 7.4)    }
E_E6         HB_INT 0 HB HS 1
X_U3         N155186681 VDD_UVLO D_D
X_U1         VDD_TH VDD_HYS VDD_UVLO COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
R_R2         N155186681 N15518582  5.8k TC=0,0 
E_ABM2         UVLO_DLY 0 VALUE { IF( V(N15518582) > 0.5, 1, 0 )    }
E_E2         VDD_TH 0 VDD COM 1
E_ABM1         VDD_HYS 0 VALUE { IF ( V(VDD_UVLO) < 0.5, 8.9, 8.4 )    }
C_C1         N15518582 0  1n  TC=0,0 
.ENDS

.subckt DTIME_UDTH2_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=100E6 Ron=10m Voff=0.2 Von=0.8
.ends DTIME_UDTH2_S1


***************************** Basic Components ***************************
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT D_D 1 2
D1 1 2 DD
.MODEL DD D (IS = 1E-015 Rs = 0 N = 0.1 TT = 10p)
.ENDS D_D
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.MODEL NMOS01_UCC27712 NMOS (VTO = 2 KP = 0.11 LAMBDA  = 0.001)
*$
.MODEL PMOS01_UCC27712 PMOS (VTO = -2 KP = 0.22 LAMBDA  = 0.001)
*$
.SUBCKT DELAY INP OUT PARAMS: RINP = 1k DELAY = 10n
R1 INP 101 {RINP}
C1 101 102 { 1.4427 * DELAY / RINP }
E1 102 0 OUT 0 0.5
E2 OUT 0 VALUE {IF(V(101) > 0.5, 1, 0)}
.ENDS DELAY
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.MODEL D_D1 D (IS = 1E-015 Rs = 0 N = 0.1 TT = 10p)
.ENDS SRLATCHRHP_BASIC_GEN
*$
.SUBCKT MONOPOS_PS in Q Qn PARAMS: PW=250u 
VS VSUP 0 DC 1
r1 IN 0 1e11
GIN VSUP YA VALUE={IF(V(IN)>0.5, V(VSUP)/1000K, 0)}
GDIS YA 0 VALUE={IF(V(IN)>0.5,0, V(YA)/1m)}
CIN YA 0 1n IC=0
RIN YA 0 1e11
EABM1 YTD 0 VALUE={IF(V(YA)> {PW*1000}, 1, 0)}
RYTD YTD 0 1e11
EXOR P 0 VALUE={IF(V(YTD) > 0.5 ^ V(IN) > 0.5, 1, 0)}
ROUTpp2 P 0 1e11
EAND1 Q1 0 VALUE={ IF(V(P)>0.5 & V(IN)>0.5, 1, 0)}
Ro1 Q1 Q 1m
Co1 Q 0 1p
ROUT2 Q 0 1e11
EAND2 Qn1 0 VALUE={ IF(V(Q)>0.5, 0, 1)}
Ro2 Qn1 Qn 1m
Co2 Qn 0 1p
ROUT4 Qn 0 1e11
.ENDS MONOPOS_PS
*$

*$

.SUBCKT POWERMOS D G S
R0 B S 0.001
M1 D G S B POWERM
.MODEL POWERM NMOS

+VTO = 3

+KP = 2.25

+LAMBDA = 0.001

+RS = 1m



.ENDS
*$


.SUBCKT D_D1 1 2
D1 1 2 DI
.model DI D

+IS = 1.038e-15

+N = 1

+TT = 20e-9

+CJO = 5e-12

+RS = 0.50

+BV = 130


.ends
*$

